US07625932B2
Additional Preparation of 4-(2-cyanophenyl)phenyl boronic acid
Dry THF (4 mL) is cooled to at −3° C. under nitrogen. BuMgCl (0.6 mL, 1.2 mmol, 2M in THF) is added. n-BuLi (1.5 mL, 2.4 mmol, 1.6 M in hexanes) is then added dropwise over 20 min at −3° C. to 0° C. After the addition, the solution is stirred at 0° C. for 45 min. The solution is cooled to −45° C. and treated dropwise over 20 min at −45 to −40° C. with a solution of 2-(4-bromophenyl)benzenecarbonitrile (0.5 g, 1.9 mmol) in a total of 4 mL THF. The resulting yellowish-orange solution is allowed to warm to −25° C. over 1 h. After 1 h, the solution is cooled to −73° C. Trimethylborate (0.43 mL, 3.87 mmol) is added dropwise over 15 min at −73° C. The solution is stirred 1 h at −73° C. The reaction is allowed to warm to −63° C. The reaction is quenched with 5 mL of 1N HCl and allowed to warm to 0° C. with stirring. The mixture is extracted with 10 mL ethyl acetate. The organic solution is shaken with brine, dried (Na2SO4).and concentrated to obtain 0.435 g of crude product. This in 5 mL of 1:1 toluene/heptane is heated to 95° C. with stirring for 10 min. Upon cooling to rt and then to 10° C., the solid is collected by filtration and rinsed three times 1:1 toluene/heptane. The solid is vacuum-dried to provide title compound (0.232 g, 95.65% HPLC, Hitachi 7000 series, SB phenyl column, 218 nm, 65% MeCN/35% water with 0.05% TFA, 1 mL/min).

reactant | BuMgCl | 1.2 mmol, 2M, 0.6 mL | C(CCC)[Mg]Cl
reactant | n-BuLi | 2.4 mmol, 1.6 M, 1.5 mL | [Li]CCCC
reactant | 2-(4-bromophenyl)benzenecarbonitrile | 1.9 mmol, 0.5 g | BrC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C13H8BrN
reactant | Trimethylborate | 3.87 mmol, 0.43 mL | COB(OC)OC | C3H9BO3
solvent | toluene heptane | 5 mL | C1(=CC=CC=C1)C.CCCCCCC
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-(2-cyanophenyl)phenyl boronic acid | 0.232 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C13H10BNO2
